US07842830B2
(2-Phenyl-[1,3]dithian-2-yl)-m-tolyl-methanol (JYC-II-053-A).
2-Phenyl-[1,3]dithiane (JYC-II-051-A) (10.0 g, 50.9 mmol) in 100 mL of anhydrous THF w a s cooled down to −78° C. nBuLi (22.4 mL of 2.5 M solution in hexanes, 56 mmol) was added dropwise and the mixture was stirred at −78° C. for 1 h. A solution of m-tolualdehyde (6.12 g, 50.9 mmol) in anhydrous THF was added to the mixture dropwise via a cannula at −78° C. under N2 counterflow. The reaction was then warmed up to room temperature and stirred at room temperature overnight. The mixture was quenched with a saturated NH4Cl aqueous solution. The organic phase was washed with H2O and dried over anhydrous MgSO4. The solvent was removed under reduced pressure to give brown oil. The product was purified by column chromatography (silica gel, hexanes:dichloromethane=1:2 (v/v)) to give light yellow oil (12.35 g, 76.6%). 1H NMR (300 MHz, CDCl3, δ): 7.66-7.70 (m, 2H), 7.25-7.33 (m, 3H), 6.98-7.02 (m, 2H), 6.64-6.68 (m, 1H), 6.56 (s, 1H), 4.94 (s, 1H), 2.86 (br s, 1H), 2.58-2.76 (m, 4H), 2.16 (s, 3H), 1.86-1.95 (m, 2H). 13C{1H} NMR (75 MHz, CDCl3, δ): 136.90, 136.74, 135.67, 130.14, 128.43, 128.06, 127.41, 126.86, 126.20, 124.80, 80.39, 65.90, 26.85, 26.62, 24.42, 21.04. HRMS-EI (m/z): [M]+ calcd for C18H20OS2, 316.09556; found, 316.09640.

reactant | 2-Phenyl-[1,3]dithiane | 50.9 mmol, 10.0 g | C1(=CC=CC=C1)C1SCCCS1 | C10H12S2
reactant | nBuLi | 56 mmol, 2.5 M, 22.4 mL | [Li]CCCC
reactant | m-tolualdehyde | 50.9 mmol, 6.12 g | C1(=CC(=CC=C1)C=O)C | C8H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (2-Phenyl-[1,3]dithian-2-yl)-m-tolyl-methanol | 12.35 g, 76.6% | C1(=CC=CC=C1)C1(SCCCS1)C(O)C=1C=C(C=CC1)C | C18H20OS2
